US04299834
8-(2,4-Dimethoxy-phenyl)-purine
A mixture of 2 g of 4,5-diamino-pyrimidine, 4 g of 2,4-dimethoxy-benzonitrile, 6 g of p-toluene sulfonic acid hydrate, and 40 ml of benzene was heated, whereby the benzene was distilled off. The residue was heated for 30 minutes at 120° C. After cooling the residue was triturated with 2 N ammonia and extracted with ethyl acetate. The ethyl acetate phase was extracted with 2 N hydrochloric acid, the aqueous phase was neutralized and again extracted with ethyl acetate, and subsequently the organic phase was extracted with 2 N sodium hydroxide solution. When the aqueous phase was neutralized, the product was precipitated and recrystallized from water.

reactant | 4,5-diamino-pyrimidine | 2 g | NC1=NC=NC=C1N | C4H6N4
reactant | 2,4-dimethoxy-benzonitrile | 4 g | COC1=C(C#N)C=CC(=C1)OC | C9H9NO2
reactant | p-toluene sulfonic acid hydrate | 6 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 8-(2,4-Dimethoxy-phenyl)-purine | COC1=C(C=CC(=C1)OC)C1=NC2=NC=NC=C2N1 | C13H12N4O2
